### PR TITLE
[Merged by Bors] - feat(Tactic/Linter): add unicode linter for unicode variant-selectors

### PR DESCRIPTION
**Pull request by joneugster**
This PR continues the work from #17129.

Original PR: https://github.com/leanprover-community/mathlib4/pull/17129

### CODE REVIEW

**Comment by joneugster** [comment]
@grunweg this PR has been `delegated` by you before. I've added the test you requested when delegating and migrated all my remaining PRs to a fork.

File: Mathlib/Lean/MessageData/Trace.lean [hunk 1]
```diff
@@ -62,9 +62,9 @@ Once that PR is available, callers should prefer `td.result?` over calling this
 Note: the emoji constants include a variation selector (U+FE0F), but `String.startsWith`
 handles this since we check for the base codepoint which is always the prefix. -/
```
Comment (joneugster) [inline Mathlib/Lean/MessageData/Trace.lean]:
```suggestion
Once that PR is available, callers should prefer `td.result?` over calling this function. -/
```

File: MathlibTest/LintStyle.lean [hunk 2]
```diff
@@ -620,11 +621,104 @@ section unicodeLinter
...
+/-- An error in this proof could mean that `replaceDisallowed` contains a character
+which is not dissallowed by `isAllowedCharacter`. -/
+private theorem disallowed_of_replaceable (c : Char) (creplaced : replaceDisallowed c ≠ none) :
+    !isAllowedCharacter c := by
+  contrapose creplaced
+  simp [isAllowedCharacter, Array.contains] at creplaced
+  repeat obtain ⟨_, creplaced⟩ := creplaced
+  simp [replaceDisallowed]
+
+
```
Comment (grunweg) [inline MathlibTest/LintStyle.lean]:
```suggestion
```

File: MathlibTest/LintStyle.lean [hunk 3]
```diff
@@ -650,6 +744,34 @@ meta def ErrorContext.isValid_parse?_error_context (ec : ErrorContext) : Bool :=
...
 
+-- "missing" variant selector
+#guard ErrorContext.isValid_parse?_error_context {
+  error := .unicodeVariant "\u271d" UnicodeVariant.emoji,
+  lineNumber := 22, path:="Mathlib/Tactic/Measurability/Init.lean"}
+
+#guard ErrorContext.isValid_parse?_error_context {
+  error := .unicodeVariant "\u271d" UnicodeVariant.text,
+  lineNumber := 22, path:="Mathlib/Tactic/Measurability/Init.lean"}
+
```
Comment (grunweg) [inline MathlibTest/LintStyle.lean:743]:
```suggestion
```

**Review by grunweg — COMMENTED** [review]
Sorry that this took so long --- thanks for your patience. I'm reasonably confident this (still) works.
bors d+

File: MathlibTest/LintStyle.lean (hunk 3 above)
Comment (joneugster) [reply MathlibTest/LintStyle.lean:743]: applied in e5dc66f6b47e7b60a697e934b2b26b05695bab96

File: MathlibTest/LintStyle.lean (hunk 2 above)
Comment (joneugster) [reply MathlibTest/LintStyle.lean]: applied in e5dc66f6b47e7b60a697e934b2b26b05695bab96
